US08084623B2
To a stirred solution of 2-ethoxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (1.00 g, 3.48 mmol, prepared using the procedure of preparation 3 step 1) in THF (40 mL) at −78° C. under nitrogen was added DIBALH (4.09 mL of 1.7 M solution in PhCH3, 6.96 mmol) dropwise over 15 minutes such that the internal temperature did not exceed −75° C. After 4.5 hours the reaction mixture was quenched by addition of sodium sulfate decahydrate (4 g) and MeOH (0.5 mL) and then warmed to ambient temperature. The reaction mixture was diluted with EtOAc (50 mL) and filtered. The filter cake was washed with EtOAc (200 mL), and the combined filtrates were concentrated in vacuo to a colourless oil. Purification by chromatography (silica, 10-30% EtOAc in hexanes) gave 2-ethoxymethyl-2-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.528 g, 2.05 mmol, 59%) as a clear, colourless oil.

reactant | 2-ethoxymethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1(N(CCC1)C(=O)OC(C)(C)C)COCC | C14H25NO5
reactant | DIBALH | 6.96 mmol, 1.7 M, 4.09 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-ethoxymethyl-2-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.05 mmol, 0.528 g, 59% | C(C)(C)(C)OC(=O)N1C(CCC1)(C=O)COCC | C13H23NO4
